US06200995B1
15.2 Preparation of 5-(4-aminophenoxy)-3-chloropyridine
To a stirred solution of 5-(4-nitrophenoxy)-3-chloropyridine (219 mg, 0.873 mmol) in EtOH (4 mL) was added SnCl2 (730 mg, 3.24 mmol). The solution was refluxed for 1.25 hr and the solvent was removed by evaporation. The resulting crude solid was purified by chromatography (97.5:2.5 CH2Cl2:MeOH) to provide 187.7 mg (78% yield) of the title compound.

reactant | 5-(4-nitrophenoxy)-3-chloropyridine | 0.873 mmol, 219 mg | [N+](=O)([O-])C1=CC=C(OC=2C=C(C=NC2)Cl)C=C1 | C11H7ClN2O3
reactant | SnCl2 | 3.24 mmol, 730 mg | Cl[Sn]Cl
solvent | EtOH | 4 mL | CCO | C2H6O
product | 5-(4-aminophenoxy)-3-chloropyridine | 187.7 mg, 78% yield | NC1=CC=C(OC=2C=C(C=NC2)Cl)C=C1 | C11H9ClN2O
